2199-08-10 06:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: CHF
   24 Hour Events:
   Patient triggered on floor b/c of 2 episodes of PMVT, both which
   unsuccessfully ATP'd, degenerated to VF, and responded to ICD firing. K
   at time 4.3 and Mg 2.1
   Torsemide [**Month (only) **] to 60 mg [**Hospital1 7**]
   PT: prior to trigger was OK for home
   Central line and foley d/c'ed
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No CP, No SOB, No dizziness
   Flowsheet Data as of  [**2199-8-10**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 71 (71 - 74) bpm
   BP: 103/66(74) {92/56(64) - 124/87(93)} mmHg
   RR: 31 (25 - 38) insp/min
   SpO2: 91%
   Heart rhythm: AV Paced
   Wgt (current): 141.8 kg (admission): 189.9 kg
   Height: 72 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    270 mL
   Urine:
   270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple.
   CARDIAC: Regular rhythm with marked ectopy, normal S1, S2. Loud S3,  No
   m/r/g. Marked Chest heave.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.
   ABDOMEN: Impressive distention but improving, obese, Non-tender. Unable
   to appreciate any HSM given level of distention. Bowel Sounds
   present.
   EXTREMITIES: No edema. Left knee with mild tenderness on palpation of
   the anterior patellar tendon. No warmth or effusion of left knee.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   14.6 g/dL
   369 K/uL
   113 mg/dL
   2.2 mg/dL
   32 mEq/L
   4.2 mEq/L
   85 mg/dL
   82 mEq/L
   132 mEq/L
   45.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2199-8-5**]  10:11 PM
                             [**2199-8-6**]  04:03 AM
                             [**2199-8-6**]  02:56 PM
                             [**2199-8-6**]  10:23 PM
                             [**2199-8-7**]  05:02 AM
                             [**2199-8-7**]  01:47 PM
                             [**2199-8-7**]  09:03 PM
                             [**2199-8-8**]  04:14 AM
                             [**2199-8-8**]  02:55 PM
                             [**2199-8-10**]  12:45 AM
   WBC
   8.0
   8.7
   7.0
   Hct
   42.4
   45.3
   45.0
   Plt
   [**Telephone/Fax (3) 9020**]
   Cr
   1.9
   1.9
   2.0
   2.1
   2.2
   2.1
   2.3
   2.3
   2.2
   2.2
   Glucose
   116
   121
   129
   120
   113
   123
   116
   109
   99
   113
   Other labs: PT / PTT / INR:14.1/23.8/1.2, CK / CKMB /
   Troponin-T:47//0.04, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated non-ischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight on admission in excess of 415 lbs., s/p BiV/ICD
   with LBBB, OSA who was directly admitted to CCU for decompensated
   systolic CHF requiring IV milrinone and lasix for diuresis and now with
   55 Liters diuresed.
   .
   . # RHYTHM: with biV/ICD.  Patient with 2 episodes of ICD firing s/p
   polymorphic VT overnight requiring transfer back to CCU. Patient
   currently stable without symptoms. K at time 4.2 and Mg 2.1
   - Appreciate EP Consult.
   - Consider anti-arrythmic [**Doctor Last Name **] as patient has had at least 5 episodes
   of sustained VT ([**8-5**] had 2 episodes of PMVT, one of which responded to
   ATP. [**8-9**] had 1 episode of VT, terminated with ATP) over course of
   admission
   - Check K/Mg [**Hospital1 7**], With goal of high 4
   - Monitor on telemetry
   - Continue Toprol XL 300mg and d/c digoxin
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: Length of stay 57.2 liters
   diuresed.  Now off milrinone, neosynephrine, and lasix drip. Continuing
   to diurese well.
   - Continue Turosemide 60mg [**Hospital1 7**]
   - Continue Metolazone to 5mg PO QAM
   - Continue Spironolactone 50 PO daily
   - Continue Toprol XL 300mg QAm today.
   - Will continue to hold lisinopril [**2-18**] low BP and renal failure
   - Q12hr Chem 7s
   - Change Potassium 40 meq po TID with meals.
   - Monitor I/O
   - Acetazolamide 250mg po Daily
   .
   #Hyponatremia/Hypochloremia: Intravasculary low volume which triggers
   ADH; Developed slowly over the past week on lasix gtt. 132/82 today,
   stable in past 24hr.
   - Continue to monitor
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output.
   Creatinine on admission 1.5, steadily increasing, up to 2.2 today.
   - continue to hold lisinopril at this time
   - monitor creatinine
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: Flare in left big toe.  Improved today.
   - has been refusing colchicine [**2-18**] diarrhea, treated now with tylenol
   # Diarrhea: Improved
    -Continue on loperamide as needed
   .
   # OSA
   - not on bipap at home
   ICU Care
   Nutrition: regular, heart-healthy diet
   Glycemic Control:  Monitoring glucose w/ Chem 7 checks
   Lines:
   Multi Lumen
 2 PIV
   Prophylaxis:
   DVT: Heparin SC 5000 IU TID, encourage ambulation.
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient, sister
   [**Name (NI) 36**] status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: ongoing problems with ventricular
   arrhythmias necessitating ICD therapies.  He continues to diurese.
   Will get EPS consult for guidance on antiarrhythmic therapy.  He is
   intolerant of amiodarone due to severe GI upset
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-10**]
   10:49 ------

2199-08-11 06:34:00 Physician Resident Progress Note
TITLE:  CCU Resident Progress Note
   Chief Complaint: Volume overload/heart failure
   24 Hour Events:
   - EP Recs: Changed ATP in hopes to pace out of VT. Only other
   consideration would be amio. Mentioned possibility of heart transplant.
   - Stopped digoxin
   - Bowel Regimen increased.
   - Creatinine bumped to 2.4 today. DC'd all diuretics until rounds to
   discuss regimen with Dr. [**First Name (STitle) **] (All doses 7/25 were given). DC'd
   potassium until diuretic regimen can be determined.
   -Telemetry shows frequent PVC
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-11**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 75 (70 - 79) bpm
   BP: 86/67(72) {71/43(49) - 99/76(79)} mmHg
   RR: 29 (19 - 53) insp/min
   SpO2: 100% RA
   Heart rhythm: AV Paced
   Wgt (current): 137.2 kg (admission): 189.9 kg
   Height: 72 Inch
                  Total In:
                                                                    700 mL
                  PO:
                                                                    700 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    950 mL
   Urine:
                                                                  3,500 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,800 mL
                                                                   -950 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple.
   CARDIAC: Regular rhythm with marked ectopy, normal S1, S2. Loud S3,  No
   m/r/g. Marked Chest heave.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.
   ABDOMEN: Impressive distention but improving, obese, Non-tender. Unable
   to appreciate any HSM given level of distention. Bowel Sounds
   present.
   EXTREMITIES: 1+ edema in both lower extremities.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well-perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   113 mg/dL
   2.5 mg/dL
   31 mEq/L
   4.0 mEq/L
   97 mg/dL
   80 mEq/L
   127 mEq/L
        [image002.jpg]
                             [**2199-8-6**]  10:23 PM
                             [**2199-8-7**]  05:02 AM
                             [**2199-8-7**]  01:47 PM
                             [**2199-8-7**]  09:03 PM
                             [**2199-8-8**]  04:14 AM
                             [**2199-8-8**]  02:55 PM
                             [**2199-8-10**]  12:45 AM
                             [**2199-8-10**]  07:57 AM
                             [**2199-8-10**]  04:15 PM
                             [**2199-8-10**]  08:10 PM
   WBC
   8.7
   7.0
   6.9
   Hct
   45.3
   45.0
   43.2
   Plt
   355
   369
   398
   Cr
   2.1
   2.2
   2.1
   2.3
   2.3
   2.2
   2.2
   2.1
   2.4
   2.4
   Glucose
   120
   113
   123
   116
   109
   99
   113
   117
   109
   116
   Other labs: PT / PTT / INR:14.4/25.1/1.2, CK / CKMB /
   Troponin-T:47//0.04, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.7 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated non-ischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight on admission in excess of 415 lbs., s/p BiV/ICD
   with LBBB, OSA who was directly admitted to CCU for decompensated
   systolic CHF requiring IV milrinone and lasix for diuresis and now with
   55 Liters diuresed.   He now has ongoing issues with recurrent
   ventricular arrhythmias with ICD firing.
   .
   . # RHYTHM: with biV/ICD.  Patient with recent episodes of ICD firing,
   requiring readmission to the CCU. Patient currently stable without
   symptoms.  Has had intractable GI symptoms with amiodarone in the past.
   - Appreciate EP Consult
 question if he is a transplant candidate?
   - No Amio at this time.
   - Check K/Mg [**Hospital1 7**], With goal of high 4
   - Monitor on telemetry
   - Continue Toprol XL 300mg, have stopped digoxin
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: Length of stay 60.7 liters
   diuresed.  Now off milrinone, neosynephrine, and lasix drip. Continuing
   to diurese, but have held diuretics overnight due to renal failure.
   - Day off from diuretics.  Then start Metolazone 5mg daily, Torsemide
   40mg [**Hospital1 7**], Aldactone 50mg Daily, Acetazolamide 250 Daily
   - Will continue to hold lisinopril [**2-18**] low BP and renal failure
   - TID Chem 7s
   - Replete Potassium  PRN, Goal K of 4.5.
   - Monitor I/O
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output.
   Creatinine on admission 1.5, steadily increasing, up to 2.5 today.
   - have held diuretics, as renal failure likely prerenal in etiology
   - continue to hold lisinopril at this time
   - monitor creatinine
   .
   #Hyponatremia/Hypochloremia: Intravasculary low volume which triggers
   ADH; Developed slowly over the past week on lasix gtt.  Stable in last
   few days.
   - continue to monitor
   .
   # CORONARIES: no known CAD, no cath in past
   - continue ASA
   .
   # Gout: Flare in left big toe.  Improved today.
   - colchicine/tylenol as needed.
   # Diarrhea: Improved
    -Continue on loperamide as needed
   .
   # OSA
   - not on bipap at home
   ICU Care
   Nutrition: Regular, heart-healthy diet
   Glycemic Control:  Monitoring glucose w/ Chem 7 checks
   Lines: 2 PIV
   Prophylaxis:
   DVT: Heparin SC 5000 IU TID, encourage ambulation.
   Stress ulcer: None
   VAP:  Not applicable
   Comments:
   Communication:  Comments: with patient, sister
   [**Name (NI) 36**] status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: pt refuses to take amio due to
   severe gi upset; but he will consider if incessant vt develops
   Holding diuretics today in face of advancing azotemia
   Continue to replenish depleted potassium stores
   Vt reduced
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-11**]
   10:54 ------

2199-08-12 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Acute CHF
   24 Hour Events:
   - Diuretics held
   -putting out 100cc/hr of urine consistently since midnight, given 40mEq
   of K at 3pm
   Yesterday given 60 mEq in AM
   Minimal NSVT- greatest 6 beat run
   Allergies:
   Iodine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No Chest Pain, No SOB, No Dizziness
   Flowsheet Data as of  [**2199-8-12**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 72 (67 - 74) bpm
   BP: 101/65(74) {72/22(46) - 127/90(99)} mmHg
   RR: 20 (18 - 44) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 135.8 kg (admission): 189.9 kg
   Height: 72 Inch
                  Total In:
                                                                    960 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,030 mL
                                                                    620 mL
   Urine:
                                                                  3,030 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,070 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. NO cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple.
   CARDIAC: Regular rhythm with marked ectopy, normal S1, S2. Loud S3,  No
   m/r/g. Marked Chest heave.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.
   ABDOMEN: Distention but improving, obese, Non-tender. Unable to
   appreciate any HSM given level of distention. Bowel Sounds present.
   EXTREMITIES: No edema in both lower extremities.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well-perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   398 K/uL
   14.2 g/dL
   114 mg/dL
   2.4 mg/dL
   34 mEq/L
   4.4 mEq/L
   105 mg/dL
   81 mEq/L
   129 mEq/L
   43.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2199-8-7**]  09:03 PM
                             [**2199-8-8**]  04:14 AM
                             [**2199-8-8**]  02:55 PM
                             [**2199-8-10**]  12:45 AM
                             [**2199-8-10**]  07:57 AM
                             [**2199-8-10**]  04:15 PM
                             [**2199-8-10**]  08:10 PM
                             [**2199-8-11**]  03:55 AM
                             [**2199-8-11**]  08:13 PM
                             [**2199-8-12**]  03:29 AM
   WBC
   7.0
   6.9
   Hct
   45.0
   43.2
   Plt
   369
   398
   Cr
   2.3
   2.3
   2.2
   2.2
   2.1
   2.4
   2.4
   2.5
   2.5
   2.4
   Glucose
   116
   109
   99
   113
   117
   109
   116
   113
   110
   114
   Other labs: PT / PTT / INR:14.4/25.1/1.2, CK / CKMB /
   Troponin-T:47//0.04, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.7 mg/dL, Mg++:2.7 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated non-ischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight on admission in excess of 415 lbs., s/p BiV/ICD
   with LBBB, OSA who was directly admitted to CCU for decompensated
   systolic CHF requiring IV milrinone and lasix for diuresis and now with
   55 Liters diuresed.   He now has ongoing issues with recurrent
   ventricular arrhythmias with ICD firing.
   .
   . # RHYTHM: with biV/ICD.  Patient with recent episodes of ICD firing,
   requiring readmission to the CCU. Patient currently stable without
   symptoms.  Has had intractable GI symptoms with amiodarone in the past.
   AV paced for the past 24 hours.
   - Appreciate EP Consult
   - No Amio at this time.
   - Check K/Mg [**Hospital1 7**], With goal of high 4
   - Monitor on telemetry
   - Continue Toprol XL 300mg, have stopped digoxin
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: Length of stay 62.4 liters
   diuresed.  Now off milrinone, neosynephrine, and lasix drip. Continuing
   to diurese, and have held diuretics for 24 hours due to renal failure.
   - Day off from diuretics.  Patient
s kidney function is stable. Since
   patient is continueing to autodiurese, consider holding diuretecs today
   as well.
   - Can continue to hold diuretics since still having good urine output.
   Will restart Metolazone 5mg daily, Torsemide 40mg [**Hospital1 7**], Aldactone 50mg
   Daily, Acetazolamide 250 Daily once fluid balance is less than net
   negative 2 liters.
   - Will continue to hold lisinopril [**2-18**] low BP and renal failure
   - Switch to daily Chem 7s
   - Replete Potassium  PRN, Goal K of 4.5.
 will give KCl 40mEq po x 2
   today in order to replete total body potassium
   - Monitor I/O
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output.
   Creatinine on admission 1.5, steadily increasing, up to 2.4 today, down
   from 2.5 yesterday.
   - Have held diuretics, as renal failure likely pre-renal in etiology
   - Continue to hold lisinopril at this time
   - Monitor Creatinine
   .
   #Hyponatremia/Hypochloremia: Intravasculary low volume which triggers
   ADH; Developed slowly over the past week on lasix gtt.  Stable in last
   few days. Acetazolamide mildly improved values.
   - Continue to monitor
   .
   # CORONARIES: no known CAD, no cath in past
   - Continue ASA
   .
   # Gout: Flare in left big toe.  Stable today.
   - Colchicine/tylenol as needed.
   # Diarrhea: Improved
    -Continue loperamide as needed
   .
   # OSA
   - not on bipap at home
   ICU Care
   Nutrition: Regular, heart-healthy diet
   Glycemic Control:  Monitoring glucose w/ Chem 7 checks
   Lines: 2 PIV
   Prophylaxis:
   DVT: Encourage ambulation, refusing SC heparin
   Stress ulcer: None
   VAP:  Not applicable
   Comments:
   Communication:  Comments: with patient, sister
   [**Name (NI) 36**] status: Full code
   Disposition: CCU for now, likely home on Wednesday (maybe tomorrow ?)
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: given ongoing diuresis will give
   another day free of diuretic drugs.  This will allow us to get back
   ahead of his total body potassium depletion which is what triggered all
   his ventricular arrhytmias.  Plan to discharge home tomorrow or next
   day.
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-12**]
   11:46 ------

2199-08-13 06:43:00 Physician Resident Progress Note
TITLE:  CCU Resident Progress Note
   Chief Complaint: S/p aggressive diuresis for fluid overload
   24 Hour Events:
   - Held all diuretics in the last 48 hours
   - Given 40 mEq po KCl [**Hospital1 7**]
   - Lots of PVC
s on telemetry, no runs of Vtach
   - Total length of stay fluid balance: negative 63.5L
   Allergies: Iodine, Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-8-13**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.4
   HR: 70 (70 - 76) bpm
   BP: 85/59(63) {82/44(56) - 110/91(94)} mmHg
   RR: 29 (15 - 49) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 136.3 kg (admission): 189.9 kg
   Height: 72 Inch
                  Total In:
                                                                    790 mL
                                                                    180 mL
   PO:
                                                                    790 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    550 mL
   Urine:
                                                                  2,170 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,380 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   GENERAL: AOx3 NAD. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. No cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple.
   CARDIAC: Regular rhythm with marked ectopy, normal S1, S2. Audible S3.
   No m/r/g. Marked chest heave.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. No wheezes or rhonchi.
   ABDOMEN: Distended but still improving, obese, Non-tender. Unable to
   appreciate any HSM given level of distention. Bowel sounds present.
   EXTREMITIES: 1+ edema in both lower extremities up to ankle.
   SKIN: Stasis dermatitis in bilateral lower extremity. No other ulcers
   or skin breakdown appreciated on exam. No jaundice.
   PULSES: Lower extremity pulses difficult to palpate given edema,
   however feet are warm, well-perfused, with good capillary refill. 2+
   pulses in bilateral upper extremity.
   Labs / Radiology
   399 K/uL
   14.9 g/dL
   108 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.7 mEq/L
   103 mg/dL
   83 mEq/L
   127 mEq/L
   44.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2199-8-8**]  04:14 AM
                             [**2199-8-8**]  02:55 PM
                             [**2199-8-10**]  12:45 AM
                             [**2199-8-10**]  07:57 AM
                             [**2199-8-10**]  04:15 PM
                             [**2199-8-10**]  08:10 PM
                             [**2199-8-11**]  03:55 AM
                             [**2199-8-11**]  08:13 PM
                             [**2199-8-12**]  03:29 AM
                             [**2199-8-13**]  04:45 AM
   WBC
   7.0
   6.9
   5.4
   Hct
   45.0
   43.2
   44.9
   Plt
   [**Telephone/Fax (3) 9080**]
   Cr
   2.3
   2.2
   2.2
   2.1
   2.4
   2.4
   2.5
   2.5
   2.4
   2.1
   Glucose
   109
   99
   113
   117
   109
   116
   113
   110
   114
   108
   Other labs: PT / PTT / INR:14.4/25.1/1.2, CK / CKMB /
   Troponin-T:47//0.04, ALT / AST:[**12-5**], Alk Phos / T Bili:169/1.5,
   Differential-Neuts:74.8 %, Lymph:13.3 %, Mono:8.7 %, Eos:2.7 %,
   Albumin:3.9 g/dL, LDH:206 IU/L, Ca++:10.9 mg/dL, Mg++:2.6 mg/dL,
   PO4:4.2 mg/dL
   Other Urine Chemistry:
   UreaN:884
   Creat:69
   Na:<10
   Cl:<10
   Osmolal:459
   (FeUrea 26)
   Assessment and Plan
   43yo male patient of Dr. [**First Name (STitle) **] with severe dilated non-ischemic
   cardiomyopathy, systolic CHF, LVEF 15%, massively dilated LV, morbid
   obesity with weight on admission in excess of 415 lbs., s/p BiV/ICD
   with LBBB, OSA who was directly admitted to CCU for decompensated
   systolic CHF requiring IV milrinone and lasix for diuresis and now with
   63 Liters diuresed.   He then had ongoing issues with recurrent
   ventricular arrhythmias with ICD firing, which appear to have
   resolved.
   .
   . # RHYTHM: with biV/ICD.  Patient with recent episodes of ICD firing,
   requiring readmission to the CCU. Patient currently stable without
   symptoms.  Has had intractable GI symptoms with amiodarone in the
   past.   Arrhythmias were likely due to total body potassium depletion.
   - Appreciate EP Consult
   - No Amio at this time.
   - Check daily K/Mg, with goal of high 4
   - Monitor on telemetry
   - Continue Toprol XL 300mg, have stopped digoxin
   # PUMP/DECOMPENSATED SYSTOLIC HEART FAILURE: Length of stay 62.4 liters
   diuresed.  Now off milrinone, neosynephrine, and lasix drip. Continuing
   to diurese, and have held diuretics for 24 hours due to renal failure.
   - Will restart Metolazone 5mg daily, Torsemide 40mg [**Hospital1 7**], Aldactone 50mg
   Daily, Acetazolamide 250 Daily now that fluid balance is less than net
   negative 2 liters.
   - Will continue to hold lisinopril [**2-18**] low BP and renal failure
   - Switch to daily Chem 7s
   - Replete Potassium  PRN, Goal K of 4.5.
 will give KCl 40mEq po x 2
   today in order to replete total body potassium
   - Monitor I/O
   .
   # Acute vs Chronic Renal Failure: Secondary to poor cardiac output.
   Creatinine on admission 1.5, now at 2.1 which is slowly improving over
   the last few days.
   - Have held diuretics, as renal failure likely pre-renal in etiology
   (FeUrea <35), but will restart today
   - Continue to hold lisinopril at this time
   - Monitor Creatinine
   .
   #Hyponatremia/Hypochloremia: Intravasculary low volume which triggers
   ADH; Developed slowly over the past 2 weeks on Lasix gtt.  Stable over
   the past week. Acetazolamide mildly improved values.
   - Continue to monitor
   .
   # CORONARIES: no known CAD, no cath in past
   - Continue ASA
   .
   # Gout: Flare in left big toe.  Stable today.
   - Colchicine/tylenol as needed.
   # Diarrhea: Improved
    -Continue loperamide as needed
   .
   # OSA
   - Not on bipap at home
   ICU Care
   Nutrition: Regular, heart-healthy diet
   Glycemic Control:  Monitoring glucose w/ Chem 7 checks
   Lines: 2 PIV
   Prophylaxis:
   DVT: Encourage ambulation, refusing SC heparin
   Stress ulcer: None
   VAP:  Not applicable
   Comments:
   Communication:  Comments: with patient, sister
   [**Name (NI) 36**] status: Full code
   Disposition: CCU for now, likely home today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: [**Known firstname **] has been quite stable without
   long runs of vt.  We have been able to catch up with his potassium
   depletion.  He is ambulating without difficulty.  Net volume removal
   has been in excess of 63 liters out.  He still has major centripetal
   obesity but the ascitic and edema contributions have been corrected.
   He will be discharged home today and will floowup in 1 or 2 weeks with
   [**First Name8 (NamePattern2) 9088**] [**Last Name (NamePattern1) 9089**].  He will be sent home on torsemide 40 mg [**Hospital1 **], no
   metolazone;  he will also be taking spironolactone but we will also get
   rid of his Diamox.  [**First Name8 (NamePattern2) 9088**] [**Last Name (NamePattern1) 9089**], NP from the HF section will keep
   close tabs on him.
   Above discussed extensively with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2199-8-13**]
   11:15 ------